US07151109B2
Preparation of 3-isopropenyl-2-methylpyrazolo[1,5-a]pyridine
A 0° C. solution of 1-(2-methylpyrazolo[1,5-a]pyridin-3-yl)ethanone (1.05 g, 6.0 mmol) in ether (20 mL) was treated with 3.0 M ether solution of methyl magnesium bromide (4 mL, 12.0 mmol). The reaction was allowed to warm to room temperature and stirred for 7 hours. The reaction was quenched with 2N HCl then extracted with ethyl acetate, washed with brine, dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (50% ethyl acetate/heptane) to give 0.562 g (55%) of brown oil as the title compound: 1H NMR (400 MHz, DMSO-d6) δ 8.53 (d, J=7.0 Hz, 1H), 7.61 (d, J=8.0 Hz, 1H), 7.19–7.15 (m, 1H), 6.82–6.78 (m, 1H), 5.20–5.19 (m, 1H), 5.04–5.03 (m, 1H), 2.42 (s, 3H), 2.16 (s, 3H); 13C NMR (100 MHz, DMSO-d6) δ 148.1, 137.5, 136.1, 128.2, 123.7, 117.0, 113.7, 111.2, 110.7, 23.6, 13.6; HRMS (FAB) calcd for C11H12N2+H 173.1079. found 173.1076.

reactant | 1-(2-methylpyrazolo[1,5-a]pyridin-3-yl)ethanone | 6.0 mmol, 1.05 g | CC1=NN2C(C=CC=C2)=C1C(C)=O | C10H10N2O
reactant | methyl magnesium bromide | 12.0 mmol, 4 mL | C[Mg]Br
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 3.0 M | CCOCC | C4H10O
product | 3-isopropenyl-2-methylpyrazolo[1,5-a]pyridine | 0.562 g, 55% | C(=C)(C)C=1C(=NN2C1C=CC=C2)C | C11H12N2
